.subckt LC_core outp outn VDD VSS tail tail_bias ind_sub Icurr=10u
** Negative GM  Pair
xleft outn outp tail tail sky130_fd_pr__nfet_01v8_lvt w=10 L=0.15
xright outp outn tail tail sky130_fd_pr__nfet_01v8_lvt w=10 L=0.15
** Inductor
** sky130_fd_pr__ind_05_220 a b ct sub
** Maybe 5-10nH Nominally
**xInd outn outp VDD ind_sub sky130_fd_pr__ind_05_220
LInd outn outp l=5n
** Capacitor
**sky130_fd_pr__cap_mim_m3_1.model.spice"
**sky130_fd_pr__cap_mim_m3_2.model.spice"
*.subckt  sky130_fd_pr__cap_mim_m3_1 c0 c1 w=1 l=1 mf=1
** Maybe nominally 2fF/um^2 ?
**xcap<25600:0> outp outn sky130_fd_pr__cap_mim_m3_1  w=1 l=1 mf=1 
cap1 outp outn c=100p
** Tail Current
xtail tail tail_bias VSS VSS sky130_fd_pr__nfet_01v8_lvt w=60 L=0.15
**IDC tail VSS 'Icurr'
.ends


.subckt ROcell_hsinvx1 en VGND VNB VPB VPWR voclk14 
.ends


.subckt ROcell_msinvx1 en VGND VNB VPB VPWR voclk14 

.ends
