.options nonlin continuation=gmin
.options timeint method=gear
.options device temp=25
**.options output initial_interval=1e-8 # DONOT USE THIS SEEMS TO GO CRAZY EVEN WITH INPUT SIGNAL
.options parser model_binning=True
.options parser scale=1e-6
**** Oscillator specific options
.options timeint newlte=0 method=7 delmax=1.0e-1
.options timeint erroption=1 delmax=1.0e-12

* Model Includes and Std Cell Includes

.param mc_mm_switch=0
.param mc_pr_switch=0

** Modify to point to open_pdks installation
.lib /home/chandru/PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
**.include "../../PDK//open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hd/cdl/sky130_fd_sc_hd_Xyce.cdl"
.include /home/chandru/PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice
.include /home/chandru/PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hs/spice/sky130_fd_sc_hs.spice
.include /home/chandru/PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_ms/spice/sky130_fd_sc_ms.spice
.include /home/chandru/PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130_fd_pr__model__inductors.model.spice


** LC Core Include file
.include "LC_Cell.spice"

** Parameters
.param pvdd = 1.8
.param bias = 1.0
*.param Icurr = 1200u
.param Icurr = 720u
.param psw0 = 1.8
.param psw1 = 1.8

* --- Voltage Sources ---
**vvdd VDD 0 dc 'pvdd'
vvss GND 0 dc 0
*vsig VDD 0 pwl(0 0 0.10n 0 0.20n 'pvdd')
vvdd VDD GND 'pvdd'
vsw0 sw0 0 'psw0'
vsw1 sw1 0 'psw1'


***--Load
Coutp outp GND 50f
Coutn outn GND 50f

** TIA
*vtail tail_v 0 dc 'bias'
Idctail VDD tail_c 'Icurr'
* ---LCCell Subcircuit----
xlccore tail_c outp outn open VDD GND LC_Cell_v1


** LC Circuit **
.ic v(outn)='pvdd'
.ic v(outp)='pvdd'
*.ic v(net1)=1.6
**.ic v(SW0) = 0
**.ic v(SW1) = 0
**.ic v(XLCCORE:NET3) = 0
**.ic v(XLCCORE:NET4) = 0
**.ic v(XLCCORE:XC1:B1) = 0
**.ic v(XLCCORE:XC3:B1) = 0
**.ic v(XLCCORE:XC1:A) = 0
**.ic v(XLCCORE:XC3:A) = 0
**.ic v(XLCCORE:XL1:NET37) = 0
**.ic v(XLCCORE:XL1:NET31) = 0


.data test
+ Icurr 
+ 1540u
+ 1560u
+ 1580u
+ 1600u
.enddata

.data sw
+psw0 psw1
+ 0.0 0.0
+ 1.8 0.0
+ 0.0 1.8
+ 1.8 1.8
.enddata

* --- Transient Analysis ---
.op
*.dc vtail 0.4 1.4 0.01
**.dc Icurr 10u 11u 0.1u
*.step DATA=test
*.step DATA=sw
.tran 1p 100n NOOP

* --- Measurement ---
*.print DC v(*)
.print tran v(outp)
.print tran v(outn)
.print tran v(*)
*.print tran i(*)
.print tran v(VDD)
.print tran ID(XLCCORE:XM1:MSKY130_FD_PR__NFET_01V8)
.print tran ID(XLCCORE:XM2:MSKY130_FD_PR__NFET_01V8)
.print tran ID(XLCCORE:XM3:MSKY130_FD_PR__NFET_01V8)
.print tran ID(XLCCORE:XM4:MSKY130_FD_PR__NFET_01V8)
.print tran ID(XLCCORE:XM5:MSKY130_FD_PR__NFET_01V8)

*.print tran ID(XLCCORE:XM1:MSKY130_FD_PR__PFET_01V8)
*.print tran ID(XLCCORE:XM2:MSKY130_FD_PR__PFET_01V8)
*.print tran ID(XLCCORE:XM3:MSKY130_FD_PR__PFET_01V8)
*.print tran ID(XLCCORE:XM4:MSKY130_FD_PR__PFET_01V8)

**.print DC {Icurr}
**.print DC {vtail}
**.print DC {tail}
*.print DC ID(XLCCORE:XLEFT:MSKY130_FD_PR__NFET_01V8_LVT)
*.print DC ID(XLCCORE:XRIGHT:MSKY130_FD_PR__NFET_01V8_LVT)
*.print DC ID(XLCCORE:XTAIL:MSKY130_FD_PR__NFET_01V8_LVT)
*.print DC N(XLCCORE:XLEFT:MSKY130_FD_PR__NFET_01V8_LVT:GM)
*.print DC N(XLCCORE:XRIGHT:MSKY130_FD_PR__NFET_01V8_LVT:GM)
*.print DC N(XLCCORE:XLEFT:MSKY130_FD_PR__NFET_01V8_LVT:VDSAT)
*.print DC N(XLCCORE:XRIGHT:MSKY130_FD_PR__NFET_01V8_LVT:VDSAT)
*.print DC N(XLCCORE:XLEFT:MSKY130_FD_PR__NFET_01V8_LVT:VTH)
*.print DC N(XLCCORE:XRIGHT:MSKY130_FD_PR__NFET_01V8_LVT:VTH)




** Continous measure
**.measure tran_cont AVG tpdlh TRIG v(vi)=0.9 FALL=1 TARG v(voclk)=0.9 RISE=1
*** Single Measure
.measure tran ROfreqP FREQ v(outp) FROM=90n TO=100n minval=1.8 
.measure tran ROdutyP DUTY v(outp) FROM=90n TO=100n minval=1.8 
.measure tran ROfreqN FREQ v(outn) FROM=90n TO=100n minval=1.8 
.measure tran ROdutyN DUTY v(outn) FROM=90n TO=100n minval=1.8 

.measure tran tpdhl_clk TRIG TD=90n v(outp)=1.8 RISE=5 TARG v(outp)=1.8 RISE=6
.print tran {1/{tpdhl_clk}}

.measure tran tperiodR_P TRIG TD=90n v(outp)=0.9 FALL=5 TARG v(outp)=0.9 FALL=6
.measure tran tperiodF_P TRIG TD=90n v(outp)=0.9 RISE=5 TARG v(outp)=0.9 RISE=6
.measure tran tperiodR_N TRIG TD=90n v(outn)=0.9 FALL=5 TARG v(outn)=0.9 FALL=6
.measure tran tperiodF_N TRIG TD=90n v(outn)=0.9 RISE=5 TARG v(outn)=0.9 RISE=6

.measure tran outpmax MAX v(outp) TD=90n
.measure tran outpmin MIN v(outp) TD=90n
.measure tran outp_p2p PP v(outp) TD=90n
.measure tran outnmax MAX v(outn) TD=90n
.measure tran outnmin MIN v(outn) TD=90n

.end
