
.lib '~/OpenLane/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice' tt
.include './../flow/results/sky130hd/cryo/6_final.cdl'
.include '~/OpenLane/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice'

.param vvdd = 1.8

xi1 EBL OUT cryoInst

vEBL                      EBL                      0                  pwl               0 0 '1n+1f' 'vvdd'
vVDD                      VDD                      0                  dc		        'vvdd'
vVSS                      VSS                      0                  dc                0
vVDDxi1                      xi1.VDD                      0                  dc		        'vvdd'
vVSSxi1                      xi1.VSS                      0                  dc                0

c0 OUT 0 1f

.TRAN 50p 9u

.PRINT TRAN V(OUT, 0)

*.meas   tran period TRIG v(lc_out) td=10p val=1.0 rise=2
*+           TARG v(lc_out) td=10p val=1.0 rise=3


.control

set num_threads=64

run
.endc

.END
